US05084575
To a solution of α-methyl-6-methoxy-2-naphthaleneacetic acid methyl ester (12.2 g, 50 mmol) in tetrahydrofuran (100 ml) at -70° C. is added a solution of lithium diisopropylamide in cyclohexane (50 ml, 1.5 equiv). After 20 min, methyl iodide (4.0 ml, 1.3 equiv) is added followed by hexamethylphosphoramide (20 ml). After allowing the reaction mixture to warm to room temperature and stir 16 hours, the reaction is quenched by addition of acetic acid (4.3 ml, 75 mmol). The solvent is then removed and the residue is partitioned between ethyl acetate and water. The organic layer is washed with water 3 times and finally with brine. After drying over magnesium sulfate, the organic extract is evaporated to afford a crude solid. Recrystallization of this solid from hexane affords 8.56 g (66%) of α,α-dimethyl-6-methoxy-2-naphthaleneacetic acid methyl ester as white crystals, m.p. 97°-98° C. A solution of this ester (7.4 g, 28.6 mmol) in 48% HBr (50 ml) and acetic acid (50 ml) is refluxed for 3 hours. After the reaction mixture is cooled to room temperature, 0.8 L of water is added and the reaction mixture is extracted with ethyl acetate 5 times. The combined organic extract is washed sequentially with saturated sodium bicarbonate solution and water. After drying over magnesium sulfate, the organic extract is evaporated to afford 6.1 g (93%) of α,α-dimethyl-6-hydroxy-2-naphthaleneacetic acid as white crystals, m.p. 208°-210° C. The title compound is prepared according to the method of Example 7 using α,α-dimethyl-6-hydroxy-2-naphthaleneacetic acid. A white solid is obtained having a melting point of 207°-209° C.

reactant | α-methyl-6-methoxy-2-naphthaleneacetic acid methyl ester | 50 mmol, 12.2 g | COC(C(C1=CC2=CC=C(C=C2C=C1)OC)C)=O | C15H16O3
reactant | lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | cyclohexane | 50 ml, 1.5 equiv | C1CCCCC1 | C6H12
reactant | methyl iodide | 4.0 ml, 1.3 equiv | CI | CH3I
reactant | acetic acid | 75 mmol, 4.3 ml | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | hexamethylphosphoramide | 20 ml | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
product | α,α-dimethyl-6-methoxy-2-naphthaleneacetic acid methyl ester | 8.56 g, 66% | COC(C(C1=CC2=CC=C(C=C2C=C1)OC)(C)C)=O | C16H18O3
